US08193234B2
Aminoacetaldehyde dimethyl acetal (5.98 mL, 55.36 mmol) was added to a stirring slurry of 4-isothiocyanato-1-naphthonitrile (11.64 g, 55.36 mmol) in dioxane (55 mL), and stirring continued for 1 h (sizable exotherm observed). HCl was added (4.8 mL, 58.13 mmol) and the mixture heated to 105° C. for 18 h. The mixture was then concentrated, methanol added (100 mL), concentrated again, more methanol added (100 mL) and sonicated. Filtration provided 4-(2-mercapto-1H-imidazol-1-yl)-1-naphthonitrile as a tan solid (8.33 g, 60%).

reactant | Aminoacetaldehyde dimethyl acetal | 55.36 mmol, 5.98 mL | COC(CN)OC | C4H11NO2
reactant | 4-isothiocyanato-1-naphthonitrile | 55.36 mmol, 11.64 g | N(=C=S)C1=CC=C(C2=CC=CC=C12)C#N | C12H6N2S
reactant | HCl | Cl | ClH
solvent | dioxane | 55 mL | O1CCOCC1 | C4H8O2
product | 4-(2-mercapto-1H-imidazol-1-yl)-1-naphthonitrile | 8.33 g, 60% | SC=1N(C=CN1)C1=CC=C(C2=CC=CC=C12)C#N | C14H9N3S
